US07612114B2
(R)-6-{2-{[4-(2-Dimethylamino-2-methylpropyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (100 mg) and 4-[2-(tert-butoxycarbonylmethylamino)-2-methylpropyl]benzoic acid (120 mg) according to an analogous synthetic method to Preparation Example 86, pivalic acid 6-{2-{{4-[2-(tert-butoxycarbonylmethylamino)-2-methylpropyl]benzoyl}ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (67 mg) was used according to an analogous synthetic method to Example 337 to provide the title compound (18 mg).

reactant | pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 100 mg | C(C)NC1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 4-[2-(tert-butoxycarbonylmethylamino)-2-methylpropyl]benzoic acid | 120 mg | C(C)(C)(C)OC(=O)CNC(CC1=CC=C(C(=O)O)C=C1)(C)C | C17H25NO4
reactant | pivalic acid 6-{2-{{4-[2-(tert-butoxycarbonylmethylamino)-2-methylpropyl]benzoyl}ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 67 mg | C(C)(C)(C)OC(=O)CNC(CC1=CC=C(C(=O)CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1)(C)C | C41H54N2O6
product | (R)-6-{2-{[4-(2-Dimethylamino-2-methylpropyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 18 mg | CN(C(CC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1)(C)C)C | C32H42N2O2
